US08114868B2
To a solution of 3-chloro-1-phenylpropan-1-one (170 g, 1.01 mol) in anhydrous THF (1200 mL) was added allylmagnesium bromide (1.2 L, 1 mol/L) at −78° C. under nitrogen. The formed mixture was stirred for 30 min at −78° C. The reaction was quenched with aqueous NaHCO3 solution. The organic phase was separated, dried over Na2SO4 and concentrated to give the crude product, which was purified by column chromatography (petroleum ether/EtOAc=100:1) to afford 1-chloro-3-phenylhex-5-en-3-ol (180 g, 86%). 1H NMR (CDCl3): 2.27 (m, 2H), 2.51 (m, 1H), 2.74 (m, 1H), 3.22 (m, 1H), 3.58 (m, 1H), 5.16 (m, 2H), 5.53 (m, 1H), 7.23 (m, 1H), 7.39 (m, 4H).

reactant | 3-chloro-1-phenylpropan-1-one | 1.01 mol, 170 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | allylmagnesium bromide | 1 mol/L, 1.2 L | C(C=C)[Mg]Br
solvent | THF | 1200 mL | C1CCOC1 | C4H8O
product | 1-chloro-3-phenylhex-5-en-3-ol | 180 g, 86% | ClCCC(CC=C)(O)C1=CC=CC=C1 | C12H15ClO
